US09447090B2
To a solution of 160 mg of ethyl 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl}piperidine-4-carboxylate in 1.5 mL of dichloromethane was added 0.7 mL of trifluoroacetic acid, followed by stirring for 1 hour. The solvent was evaporated under reduced pressure, and a saturated aqueous sodium carbonate solution and a chloroform-methanol mixed solution were added thereto in this order to carry out a layer separation operation. After drying over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure to obtain 120 mg of ethyl 1-[(2R)-2-amino-2-phenylethyl]piperidine-4-carboxylate.

reactant | ethyl 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl}piperidine-4-carboxylate | 160 mg | C(C)(C)(C)OC(=O)N[C@@H](CN1CCC(CC1)C(=O)OCC)C1=CC=CC=C1 | C21H32N2O4
reactant | trifluoroacetic acid | 0.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | ethyl 1-[(2R)-2-amino-2-phenylethyl]piperidine-4-carboxylate | 120 mg | N[C@@H](CN1CCC(CC1)C(=O)OCC)C1=CC=CC=C1 | C16H24N2O2
